US07935782B2
62. Synthesis of Benzocyclobutenol
To a stirred solution of mercury(II) oxide (591.3 mg, 2.73 mmol) and 35% aqueous tetrafluoroboric acid (TFBA) (999.4 mg, 5.46 mmol) in 1,4-dioxane (10.9 mL), 1-bromobenzocyclobutene (1.0 g, 5.46 mmol) was added. The reaction stirred at room temperature for 2 h and was then treated successively with NaHCO3 and 3N KOH until the solution remained basic. The precipitated mercury(II) oxide was filtered off and the filtrate extracted with CH2Cl2 (3×300 mL), dried with anhydrous Na2SO4, filtered, and concentrated to yield white crystals that were purified via column chromatography using a 3:2 Hexanes:EtOAc solvent system.

reactant | tetrafluoroboric acid | 5.46 mmol, 999.4 mg | F[B-](F)(F)F.[H+]
reactant | 1-bromobenzocyclobutene | 5.46 mmol, 1.0 g | BrC1CC=2C1=CC=CC2 | C8H7Br
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | KOH | 3N | [OH-].[K+]
solvent | 1,4-dioxane | 10.9 mL | O1CCOCC1 | C4H8O2
catalyst | mercury(II) oxide | 2.73 mmol, 591.3 mg | [Hg]=O
product | Benzocyclobutenol | C1(=CC2=C1C=CC=C2)O | C8H6O
